US08030305B2
m-Perchlorobenzoic acid (6.85 g, 39.8 mmol) was added to a solution of commercially available quinolin-6-yl-acetic acid methyl ester (5.00 g, 24.8 mmol) in 1,2-dimethoxyethane at room temperature and stirred for 2 hours. Water was added and the solution was basified to pH 9-10 with saturated potassium carbonate and the product was extracted with ethyl acetate to give quantitative yield of (1-hydroxy-quinolin -6-yl)-acetic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 7.99 (d, 1H, J=8.4 Hz), 7.93 (d, 1H, J=8.4 Hz), 7.65 (m, 1H), 7.60 (m, 1H), 7.32 (d, 1H, J=8.8 Hz), 7.19 (s, 1H), 3.74 (s, 2H), 3.65 (s, 3H).

reactant | quinolin-6-yl-acetic acid methyl ester | 24.8 mmol, 5.00 g | COC(CC=1C=C2C=CC=NC2=CC1)=O | C12H11NO2
reactant | Water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | (1-hydroxy-quinolin -6-yl)-acetic acid methyl ester | quantitative yield | COC(CC=1C=C2C=CCN(C2=CC1)O)=O | C12H13NO3
